US06417203B1
Benzyl 2-[3-{[3-({2-[(tert-Butoxycarbonyl)amino]ethoxy}methyl)phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate
A mixture of tert-butyl 2-{[3-(2-aminoethyl)benzyl]oxy}ethylcarbamate (preparation 105) (270 mg, 0.92 mmol), benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate (preparation 17) (300 mg, 0.92 mmol), and triethylamine (140 ml, 1.01 mmol) in ethyl acetate was heated under reflux overnight. The cooled suspension was diluted with ethyl acetate, then washed with hydrochloric acid (2N), NaHCO3 solution, brine, then dried over MgSO4 and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using ethyl acetate:pentane (40:60) as eluant, and triturated with ether, to give the title compound as a white solid, (243 mg, 45%). Re-purifiing the ether filtrate by column chromatography on silica gel provided an additional (176 mg, 33%) of the desired product.

reactant | tert-butyl 2-{[3-(2-aminoethyl)benzyl]oxy}ethylcarbamate | 0.92 mmol, 270 mg | NCCC=1C=C(COCCNC(OC(C)(C)C)=O)C=CC1 | C16H26N2O3
reactant | benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | 0.92 mmol, 300 mg | ClC1=C(N(C(C(=N1)Cl)=O)CC(=O)OCC1=CC=CC=C1)C | C14H12Cl2N2O3
reactant | triethylamine | 1.01 mmol, 140 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-[3-{[3-({2-[(tert-Butoxycarbonyl)amino]ethoxy}methyl)phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 243 mg, 45% | C(C)(C)(C)OC(=O)NCCOCC=1C=C(CCNC=2C(N(C(=C(N2)Cl)C)CC(=O)OCC2=CC=CC=C2)=O)C=CC1 | C30H37ClN4O6
